US07342115B2
Methanesulfonyl chloride (0.42 g, 3.7 mmol) and triethylamine (0.37 g, 3.7 mmol) are added to a solution of [6-(2,6-diethyl-phenyl)-4-methoxy-2-trifluoromethyl-pyridin-3-yl]-methanol (1.0 g, 3.0 mmol) in DCM (1 mL) and the mixture is stirred at room temperature for 1 hour. The volatile material is removed in vacuo. K2CO3 (1.3 g, 9.3 mmol), (S)-methyl-(1,2,3,4-naphthalen-1-yl)-amine (1.5 g, 9.3 mmol), and acetonitrile (20 mL) are added to the residue. The mixture is stirred at room temperature for 16 hours. The reaction is diluted with ethyl acetate (20 mL) and water (20 mL). The organic layer is separated and the aqueous layer is extracted with ethyl acetate (2×20 mL). The combined organic layers are dried and solvent removed. The crude product is purified by PTLC (hexanes/ethyl acetate 6:1) to give (S)-[6-(2,6-diethyl-phenyl)-4-methoxy-2-trifluoromethyl-pyridin-3-ylmethyl]-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine. 1H NMR: (CDCl3) 7.68 (d, 1H), 7.29 (m, 1H), 7.12 (m, 5H), 6.95 (S, 1H), 4.04 (m, 3H), 3.91 (s, 3H), 2.76 (m, 2H), 2.35 (m, 4H), 2.06 (m, 5H), 1.80 (m, 2H), 1.07 (t, 6H). [α]D=+10.7 (16.7 mg/1 mL benzene).

reactant | Methanesulfonyl chloride | 3.7 mmol, 0.42 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.7 mmol, 0.37 g | C(C)N(CC)CC | C6H15N
reactant | [6-(2,6-diethyl-phenyl)-4-methoxy-2-trifluoromethyl-pyridin-3-yl]-methanol | 3.0 mmol, 1.0 g | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C(F)(F)F)CO)OC | C18H20F3NO2
reactant | K2CO3 | 9.3 mmol, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (S)-[6-(2,6-diethyl-phenyl)-4-methoxy-2-trifluoromethyl-pyridin-3-ylmethyl]-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C(F)(F)F)CN([C@H]1CCCC2=CC=CC=C12)C)OC | C29H33F3N2O
